US06476038B1
G. 7-(2-aminoethylamino)-2,5-dimethyl-3-(2,4-dimethoxyphenyl)-pyrazolo[1,5-a] pyrimidine
Dissolve 7-chloro-2,5-dimethyl-3-(2,4-dimethoxyphenyl)-pyrazolo[1,5-a] pyrimidine in 25 mL CH3CN, then add excess ethylenediamine (5 mL) and heat to 80° C. for 3-6 h under N2 with attached reflux condenser. (TLC: [10% (2.0M NH3 in MeOH)/90% CH2Cl2] as eluent). Cool to ambient temperature and evaporate to yellow oil. Partition between CH2Cl2 (50 mL) and 1.0 N NaOH (50 mL), and extract aqueous layer 2×30 mL CH2Cl2. Pool organic layers, dry over Na2SO4, filter and evaporate to yellow-white foam. Use without further purification.

reactant | 7-chloro-2,5-dimethyl-3-(2,4-dimethoxyphenyl)-pyrazolo[1,5-a] pyrimidine | ClC1=CC(=NC=2N1N=C(C2C2=C(C=C(C=C2)OC)OC)C)C | C16H16ClN3O2
reactant | ethylenediamine | 5 mL | C(CN)N | C2H8N2
reactant | NH3 | 2.0M | N | H3N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH3CN | 25 mL | CC#N | C2H3N
solvent | MeOH | CO | CH4O
product | 7-(2-aminoethylamino)-2,5-dimethyl-3-(2,4-dimethoxyphenyl)-pyrazolo[1,5-a] pyrimidine | NCCNC1=CC(=NC=2N1N=C(C2C2=C(C=C(C=C2)OC)OC)C)C | C18H23N5O2
